### PR TITLE
[Merged by Bors] - feat(Data/Set): infinite sets have a countably infinite subset

### PR DESCRIPTION
**Pull request by felixpernegger**

### CODE REVIEW

File: Mathlib/Data/Set/Countable.lean [hunk 1]
```diff
@@ -162,6 +162,16 @@ theorem Countable.image {s : Set α} (hs : s.Countable) (f : α → β) : (f ''
   have := hs.to_subtype
   apply countable_range
 
+theorem Infinite.exists_subset_countable_infinite {α : Type u} {s : Set α} (hs : s.Infinite) :
```
Comment (vihdzp) [inline Mathlib/Data/Set/Countable.lean:165]: How much cardinal theory is available in this file? This should be an easy consequence of [`Cardinal.le_mk_iff_exists_subset`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Cardinal/Basic.html#Cardinal.le_mk_iff_exists_subset).

Comment (felixpernegger) [reply Mathlib/Data/Set/Countable.lean:165]: Its not in the imports. Worth moving this theorem or changing imports?

Comment (vihdzp) [reply Mathlib/Data/Set/Countable.lean:165]: Probably not. This isn't nearly long enough to warrant moving around.

File: Mathlib/Data/Set/Countable.lean [hunk 2]
```diff
@@ -162,6 +162,16 @@ theorem Countable.image {s : Set α} (hs : s.Countable) (f : α → β) : (f ''
...
+    ∃ t ⊆ s, t.Countable ∧ t.Infinite := by
+  obtain ⟨f, hf⟩ := Infinite.natEmbedding s hs
+  refine ⟨range (Subtype.val ∘ f), ?_, ?_, ?_⟩
+  · intro _ ⟨y, hy⟩
+    rw [← hy]
+    exact Subtype.coe_prop (f y)
+  · exact countable_range (Subtype.val ∘ f)
+  · exact infinite_range_of_injective <| Injective.comp Subtype.val_injective hf
```
Comment (vihdzp) [inline Mathlib/Data/Set/Countable.lean:171]: I think it should be possible to inline this entire proof:
```suggestion
  exact ⟨range (Subtype.val ∘ f), fun _ ⟨y, hy⟩ ↦ hy ▸ Subtype.coe_prop (f y), countable_range (Subtype.val ∘ f),
    infinite_range_of_injective <| Injective.comp Subtype.val_injective hf⟩
```
Feel free to split up if you think this is a bit too crammed (or if it doesn't work, I haven't tested it).

Comment (felixpernegger) [reply Mathlib/Data/Set/Countable.lean:171]: doing this requires 3 lines, so better not I think.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
